US04721721
The Preparation of 6-(2-Guanidino-5-Methylthiazol-4-yl)-3,4-Dihydrocarbostyril
A mixture of 6-(α-bromopropionyl)-3,4-dihydrocarbostyril (7 g), amidinothiourea (3.1 g) and absolute ethanol (250 ml) is stirred under reflux overnight. The reaction mixture is cooled to ice bath temperature, and the solid filtered, washed with ethanol, dried, and suspended in aqueous sodium hydroxide. The neutralized solid is filtered, washed with water, dried and recrystallized from 50% aqueous DMF affording the desired product, M.P. >250° C.

reactant | 6-(α-bromopropionyl)-3,4-dihydrocarbostyril | 7 g | BrC(C(=O)C=1C=C2CCC(NC2=CC1)=O)C | C12H12BrNO2
reactant | amidinothiourea | 3.1 g | C(N)(=N)NC(=S)N | C2H6N4S
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 6-(2-Guanidino-5-Methylthiazol-4-yl)-3,4-Dihydrocarbostyril | N(C(=N)N)C=1SC(=C(N1)C=1C=C2CCC(NC2=CC1)=O)C | C14H15N5OS
